US07875639B2
Adamantane-1-carboxylic acid (6-methanesulfonyl-benzothiazol-2-yl)-amide
Commercially available 6-methanesulfonyl-benzothiazol-2-ylamine, triethylamine, and adamantane-1-carbonyl chloride were processed as described for Example 17A to afford the title compound MS (ESI+) m/z 391 (M+H)+;

reactant | 6-methanesulfonyl-benzothiazol-2-ylamine | CS(=O)(=O)C1=CC2=C(N=C(S2)N)C=C1 | C8H8N2O2S2
reactant | adamantane-1-carbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Adamantane-1-carboxylic acid (6-methanesulfonyl-benzothiazol-2-yl)-amide | CS(=O)(=O)C1=CC2=C(N=C(S2)NC(=O)C23CC4CC(CC(C2)C4)C3)C=C1 | C19H22N2O3S2
